US06603005B2
3.9 g of ethyl 4-[3-(3-chloro-6-methoxyquinolin-4-yl)propyl]piperidine-4-carboxylate and 2.07 g of potassium carbonate were added to a solution of 1.17 cm3 of 2-iodoethanol in 80 cm3 of acetonitrile, at a temperature in the region of 20° C. with stirring and under an inert atmosphere. After heating for 23 hours at a temperature in the region of 80° C., a further 1.17 cm3 of 2-iodoethanol were added. After heating for 40 hours at a temperature in the region of 80° C., the reaction mixture was cooled to about 20° C., filtered and concentrated under reduced pressure (1 kPa) at a temperature in the region of 50° C. The residue obtained was purified by chromatography under a pressure of 100 kPa of nitrogen, on a column of silica gel (particle size 40-60μ; diameter 4 cm; height 60 cm), eluting with a dichloromethane/methanol/aqueous ammonia mixture (89/10/1 by volume) and collecting 50-cm3 fractions. Fractions 14 to 17 were combined and then concentrated as previously. 1.9 g of ethyl 4-[3-(3-chloro-6-methoxyquinolin-4-yl)propyl]-1-(2-hydroxyethyl)piperidine-4-carboxylate were obtained.

reactant | ethyl 4-[3-(3-chloro-6-methoxyquinolin-4-yl)propyl]piperidine-4-carboxylate | 3.9 g | ClC=1C=NC2=CC=C(C=C2C1CCCC1(CCNCC1)C(=O)OCC)OC | C21H27ClN2O3
reactant | potassium carbonate | 2.07 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-iodoethanol | 1.17 cm3 | ICCO | C2H5IO
reactant | 2-iodoethanol | 1.17 cm3 | ICCO | C2H5IO
solvent | acetonitrile | 80 cm3 | C(C)#N | C2H3N
product | ethyl 4-[3-(3-chloro-6-methoxyquinolin-4-yl)propyl]-1-(2-hydroxyethyl)piperidine-4-carboxylate | 1.9 g | ClC=1C=NC2=CC=C(C=C2C1CCCC1(CCN(CC1)CCO)C(=O)OCC)OC | C23H31ClN2O4
